US08431573B2
4-(1,4-Dioxa-8-azaspiro[4.5]dec-8-yl)-6-oxo-2-(3-thienylmethyl)-1,6-dihydropyrimidine-5-carbonitrile
In analogy to the preparation of Example 1, 100 mg (0.38 mmol) of 4-(methylsulphanyl)-6-oxo-2-(3-thienylmethyl)-1,6-dihydropyrimidine-5-carbonitrile are reacted with 544 mg (3.80 mmol) of 1,4-dioxa-8-azaspiro[4.5]decane to give 65 mg (48% of theory) of the title compound.

reactant | 4-(methylsulphanyl)-6-oxo-2-(3-thienylmethyl)-1,6-dihydropyrimidine-5-carbonitrile | 0.38 mmol, 100 mg | CSC=1N=C(NC(C1C#N)=O)CC1=CSC=C1 | C11H9N3OS2
reactant | 1,4-dioxa-8-azaspiro[4.5]decane | 3.80 mmol, 544 mg | O1CCOC12CCNCC2 | C7H13NO2
product | 4-(1,4-Dioxa-8-azaspiro[4.5]dec-8-yl)-6-oxo-2-(3-thienylmethyl)-1,6-dihydropyrimidine-5-carbonitrile | O1CCOC12CCN(CC2)C=2N=C(NC(C2C#N)=O)CC2=CSC=C2 | C17H18N4O3S
